US05206367
3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione
3-Chloro-5,6,7,8-tetrahydroquinolin-5-one (125 grams, 0.689 mol) was suspended in formamide (98%, 1 L) with sodium bisulfite (73 grams, 0.7 mol). The mixture was mechanically stirred while ammonium carbonate (285 grams, 2.97 mol) was added in portions. This caused some foaming which limited the rate of addition. After the initial foaming subsided, potassium cyanide (90 grams, 1.38 mol) was added in one portion as a solid. The reaction mixture was stirred at room temperature for 3 days. The reaction was diluted with water (500 ml) and cooled in an ice water bath. The reaction pH was 9.91. 6N HCl (about 550 ml) was added dropwise to give a stable pH of 7.2. Again there was some foaming toward the end of the pH adjustment and the gases were scrubbed with a caustic trap. Water (500 ml) was added to further dilute the reaction and the mixture was granulated for 1/2 hour. The product was filtered and air dried overnight. The crude solid was broken up and slurried in acetonitrile (600 ml) for 45 minutes. The solid product was filtered, washed with acetonitrile and dried in vacuo at 40° C. Yield 134 grams (77.5%); mp 230°-3° C. NMR (DMSO, d6, 300 MHz) δ10.7 (bs, 1), 8.6 (s, 1), 8.5 (d, 1), 7.65 (d, 1), 2.9 (t, 2), 2.15 (m, 2), 1.9 (m, 2).

reactant | 3-Chloro-5,6,7,8-tetrahydroquinolin-5-one | 0.689 mol, 125 grams | ClC=1C=NC=2CCCC(C2C1)=O | C9H8ClNO
reactant | sodium bisulfite | 0.7 mol, 73 grams | S([O-])(O)=O.[Na+]
reactant | ammonium carbonate | 2.97 mol, 285 grams | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 1.38 mol, 90 grams | [C-]#N.[K+]
reactant | HCl | 6N, about 550 ml | Cl | ClH
solvent | formamide | 1 L | C(=O)N | CH3NO
solvent | water | 500 ml | O | H2O
solvent | Water | 500 ml | O | H2O
product | 3-Chlorospiro-[5,6,7,8-tetrahydroquinolin-5,4'-imidazolidine]-2',5'-dione | ClC=1C=NC=2CCCC3(NC(NC3=O)=O)C2C1 | C11H10ClN3O2
